US05760246
A. N-Propyl-9-fluorene-carboxamide
A solution of 9-fluorene carboxylic acid (20.0 g, 95 mmol) in 200 mL of CH2Cl2 was treated with oxalyl chloride (12.5 g, 105 mmol) and 0.2 mL of DMF. After 0.75 h, the mixture was concentrated under reduced pressure to give a white solid. The solid was diluted with 100 mL of THF cooled to -40° C., treated with propylamine (11.8 g, 200 mmol). The suspension was stirred for 3 h at room temperature and diluted with ethyl acetate and water. The organic fraction was dried over Na2SO4 and concentrated to a white solid. The solid purified by trituration with hot hexanes and recrystalization from hot methanol to give 17.5 g (87%) of title compound as white flakes. mp 197°-199° C.

reactant | 9-fluorene carboxylic acid | 95 mmol, 20.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C14H10O2
reactant | oxalyl chloride | 105 mmol, 12.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
reactant | propylamine | 200 mmol, 11.8 g | C(CC)N | C3H9N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-Propyl-9-fluorene-carboxamide | 17.5 g, 87% | C(CC)NC(=O)C1C2=CC=CC=C2C=2C=CC=CC12 | C17H17NO
